US06599917B1
5.0 ml of a dichloromethane solution of 2-benzyl-6-[(3R,4R)-3-methoxymethyloxy-4-hydroxypyrrolidine-1-yl]pyridine was added dropwise into a solution of 10 ml of dichloromethane containing 278 μl of diethylaminosulfur trifluoride at −78° C. over 10 minutes. After stirring at room temperature for one hour, it was heated under stirring at 40° C. for one hour. After cooling as it was, the reaction solution was poured into water. The mixture was extracted with ethyl acetate, and the organic phase was washed with brine and the solvent was removed. Then, the residue was subjected to silica gel column chromatography and eluted with hexane/ethyl acetate (10:1) and then with hexane/ethyl acetate (2:1), to give 56.7 mg of 2-benzyl-6-[(3R,4S)-3-methoxymethyloxy-4-fluoropyrrolidine-1-yl]pyridine (1H-NMR (CDCl3) δ=3.38 (3H, s), 3.65-3.82 (4H, m), 3.97 (2H, s), 4.41-4.43 (1H, m), 4.69-4.75 (2H, m), 5.18 (1H, br.d, J=49 Hz), 6.18 (1H, d, J=8 Hz), 6.38 (1H, d, J=7 Hz), 7.01-7.36 (6H, m)) and 294 mg of a crude refined product of 2-benzyl-6-[(3R,4S)-3-(fluoromethoxy)-4-methoxypyrrolidine-1-yl]pyridine. This crude purified product was purified by a thin layer chromatography (developed three timed using hexane/ethyl acetate (5/1) and three times using hexane/ethyl acetate (4/1)), to give 47.8 g of 2-benzyl-6-[(3R,4S)-3-(fluoromethoxy)-4-methoxypyrrolidine-1-yl]pyridine (1H-NMR (CDCl3) δ=3.48 (3H, s), 3.54-3.73 (4H, m), 3.97 (2H, s), 4.00-4.04 (1H, m), 4.41-4.46 (1H, m), 5.41 (2H, d, J=56 Hz), 6.15 (1H, d, J=8 Hz), 6.37 (1H, d, J=7 Hz), 7.17-7.35 (6H, m)).

reactant | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
reactant | 2-benzyl-6-[(3R,4R)-3-methoxymethyloxy-4-hydroxypyrrolidine-1-yl]pyridine | C(C1=CC=CC=C1)C1=NC(=CC=C1)N1C[C@H]([C@@H](C1)O)OCOC | C18H22N2O3
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | diethylaminosulfur trifluoride | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | water | O | H2O
product | 2-benzyl-6-[(3R,4S)-3-methoxymethyloxy-4-fluoropyrrolidine-1-yl]pyridine | 56.7 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1)N1C[C@H]([C@H](C1)F)OCOC | C18H21FN2O2
